US06559172B1
Preparation of (4R*,5R*)-5-(2-Fluoro-5-trifluoromethyl-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole
In a manner analogous to Preparation 1, 2-fluoro-5-(trifluoromethyl)benzaldehyde (0.26 g, 1.47 mmol), tosylmethylisocyanide (0.27 g, 1.40 mmol) and NaCN (6.9 mg, 0.14 mmol) gave the desired compound as a tan solid. 1H NMR (300 MHz, CDCl3) δ 2.48 (s, 3H), 5.10-5.14 (dd, 1H), 6.12-6.16 (dd, 1H), 7.16-7.20 d, 2H), 7.40-7.44 (dd, 2H), 7.52-7.56 (d, 1H), 7.66-7.70 (d, 1H), 7.88-7.92 (dd, 2H).

reactant | 2-fluoro-5-(trifluoromethyl)benzaldehyde | 1.47 mmol, 0.26 g | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | tosylmethylisocyanide | 1.40 mmol, 0.27 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.14 mmol, 6.9 mg | [C-]#N.[Na+]
product | (4R*,5R*)-5-(2-Fluoro-5-trifluoromethyl-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole | FC1=C(C=C(C=C1)C(F)(F)F)[C@@H]1[C@H](N=CO1)S(=O)(=O)C1=CC=C(C=C1)C | C17H13F4NO3S
